US08080566B1
A 250-mL round-bottomed flask was charged a solution of 3-(1H-pyrazol-5-yl)piperidine dihydrochloride (2.9 g, 13.00 mmol, 1.50 equiv) in ethanol (150 mL) and DIPEA (4.55 g, 35.23 mmol, 4.00 equiv), acetic acid (3.17 g, 52.83 mmol, 6.00 equiv), 9-ethyl-6,7,8,9-tetrahydro-5H-carbazole-3-carbaldehyde (2 g, 8.81 mmol, 1.00 equiv) and NaBH3CN (1.665 g, 26.43 mmol, 3.00 equiv). The resulting mixture was heated to 40° C. in an oil bath for 16 hours. The reaction progress was monitored by TLC (DCM: MeOH=10:1). Upon completion, the mixture was diluted with dichloromethane (200 mL). The pH was adjusted to 9 with aqueous sodium bicarbonate. The mixture was then extracted with dichloromethane (3×100 mL). Combined organic layers were dried over anhydrous sodium sulfate, filtered off and concentrated on a rotary evaporator. The residue was purified by a silica gel column chromatography eluted with dichloromethane/methanol (10/1) affording 3-((3-(1H-pyrazol-5-yl)piperidin-1-yl)methyl)-9-ethyl-6,7,8,9-tetrahydro-5H-carbazole as white solid (1 g, 30%). LCMS: [M+H]+: 363. 1H NMR (CDCl3, 300 MHz) δ 7.45 (d, 1H), 7.43 (s, 1H), 7.26 (d, 1H), 7.19 (d, 1H), 6.06 (d, 1H), 4.05 (m, 2H), 3.92 (m, 2H), 3.36 (br, 1H), 2.73 (m, 4H), 2.65 (br, 2H), 2.11 (s, 2H), 1.86 (m, 5H), 1.75 (br, 1H), 1.55 (m, 1H), 1.47 (m, 1H), 1.31 (t, 3H).

reactant | 3-(1H-pyrazol-5-yl)piperidine dihydrochloride | 13.00 mmol, 2.9 g, 1.50 equiv | Cl.Cl.N1N=CC=C1C1CNCCC1
reactant | DIPEA | 35.23 mmol, 4.55 g, 4.00 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | acetic acid | 52.83 mmol, 3.17 g, 6.00 equiv | C(C)(=O)O | C2H4O2
reactant | 9-ethyl-6,7,8,9-tetrahydro-5H-carbazole-3-carbaldehyde | 8.81 mmol, 2 g, 1.00 equiv | C(C)N1C=2CCCCC2C=2C=C(C=CC12)C=O | C15H17NO
reactant | NaBH3CN | 26.43 mmol, 1.665 g, 3.00 equiv | [BH3-]C#N.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | 3-((3-(1H-pyrazol-5-yl)piperidin-1-yl)methyl)-9-ethyl-6,7,8,9-tetrahydro-5H-carbazole | 1 g, 30% | N1N=CC=C1C1CN(CCC1)CC=1C=CC=2N(C=3CCCCC3C2C1)CC | C23H30N4
